US08357693B2
To tert-butyl 5-(2-(3-(2-(4-methylpiperazin-1-yl)acetamido)phenyl)-quinazolin-4-ylamino)-1H-indazole-1-carboxylate (22 mmol) was added a solution of 1:1 TFA:CH2Cl2 (2 mL) and stirred at RT for 2 h. The reaction mixture was concentrated in vacuo and the crude product was purified by prep HPLC (method 10-35—90 mins) to afford N-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)-2-(4-methylpiperazin-1-yl)acetamide. (33 mg, 33%)

reactant | tert-butyl 5-(2-(3-(2-(4-methylpiperazin-1-yl)acetamido)phenyl)-quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 22 mmol | CN1CCN(CC1)CC(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C33H36N8O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)-2-(4-methylpiperazin-1-yl)acetamide | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(C=CC1)NC(CN1CCN(CC1)C)=O | C28H28N8O
